US06486141B2
Step 2 4′-methy-4-hydroxybiphenyl
To a solution of 4′-methoxy-4-methylbiphenyl (10.5 g, 53 mmol) in CH2Cl2 (300 mL) at 0° C. was added a solution of 1M BBr3 in CH2Cl2 (65 mL, 65 mmol). The mixture was slowly warmed to r.t. and stirred overnight. After cooling to 0° C. again, the mixture was quenched with H2O. The CH2Cl2 layer was separated, washed with H2O, dried (MgSO4) and concentrated to give the title compound as a white solid (9.5 g, 97% yield).

reactant | 4′-methoxy-4-methylbiphenyl | 53 mmol, 10.5 g | COC1=CC=C(C=C1)C1=CC=C(C=C1)C | C14H14O
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 65 mmol, 65 mL | C(Cl)Cl | CH2Cl2
product | 4′-methy-4-hydroxybiphenyl | 9.5 g, 97% yield | CC1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H12O
